US07847123B2
Preparation of N-octylglycolamide
0.75 mol of glycolic acid were melted at 80° C., then 1.11 mol of octylamine were added dropwise with stirring. After the exothermic reaction had subsided, the mixture was heated for one hour to 165° C. and then the excess amine was distilled off under reduced pressure. The product was obtained after cooling in the form of a white, crystalline solid.

reactant | glycolic acid | 0.75 mol | C(CO)(=O)O | C2H4O3
reactant | octylamine | 1.11 mol | C(CCCCCCC)N | C8H19N
product | N-octylglycolamide | C(CCCCCCC)NC(CO)=O | C10H21NO2
